US05204086
N,N'-bis(2,3-dihydroxypropyl)-5-[N-(2-hydroxy-3-methoxypropyl)acetamido]-2,4,6-triiodoisophthalamide (Compound B)
To a suspension of 5-acetamido-N,N'-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide, prepared as in British Patent No. 1548594, (800 g, 1.07 mol) in propylene glycol (2.4 1) was added 16.5M sodium hydroxide (97.3 ml, 1.61 mol) and then the suspension was stirred at about 70° until the starting material was dissolved. Thereafter the solution was cooled to about 35° and 2-hydroxy-3-methoxypropyl chloride (199.8 g, 1.61 mol) was added. After about 16 h the reaction mixture was heated at about 50° for an additional 8 h. The reaction was quenched by adding hydrochloric acid and then the mixture evaporated in vacuo to dryness. The residue was suspended in methanol (2.3 1 and undissolved salts filtered off. The solution was diluted with water (575 ml) and treated with sufficient amounts of AmberliteRIR-120 cation exchange resin and DowexR 1×4 anion exchange resin to remove inorganic salts. After filtration the solution was treated with charcoal and evaporated to dryness in vacuo. The residue was dissolved in 2 -propanol (3.2 1) by heating and then the solution evaporated to dryness in vacuo. The residue was dissolved in hot 2-propanol (3.2 1) and the solution cooled to -40° whereby the product crystallized. The product was collected on a filter. Yield: 718 g. The crystals (700 g) was dissolved in boiling 2-propanol (2,8 1) and refluxed for 2 days. After some hours crystals insoluble in hot 2-propanol started to crystallize. The mixture was filtered while hot. Yield: 490 g. The crystals were dissolved in water and the solution evaporated to dryness in vacuo.

reactant | 5-acetamido-N,N'-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide | C(C)(=O)NC=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)C(=O)NCC(CO)O)I | C16H20I3N3O7
reactant | sodium hydroxide | 1.61 mol, 16.5M, 97.3 ml | [OH-].[Na+]
reactant | 2-hydroxy-3-methoxypropyl chloride | 1.61 mol, 199.8 g | OC(CCl)COC | C4H9ClO2
solvent | propylene glycol | C(C(C)O)O | C3H8O2
product | N,N'-bis(2,3-dihydroxypropyl)-5-[N-(2-hydroxy-3-methoxypropyl)acetamido]-2,4,6-triiodoisophthalamide | OC(CNC(C1=C(C(C(=O)NCC(CO)O)=C(C(=C1I)N(C(C)=O)CC(COC)O)I)I)=O)CO | C20H28I3N3O9
